US04613613
Synthesis of α-cyclohexylthiomethyl-β-(p-methoxyphenyl)-γ-butyrolactone (Compound No. 83)(Ic)
To a solution of 480 mg of potassium hydroxide in 40 ml of ethanol were added 2.0 g of α-methanesulfonyloxymethyl-β-(p-methoxyphenyl)-γ-butyrolactone and 1.6 ml of cyclohexylmercaptan and the resulting mixture was kept at room temperature for 4 hours. After completion of the reaction, the reaction mixture was diluted with 200 ml of ethyl ether, washed with water and saturated saline, dried over magnesium sulfate and the solvent was distilled off. The crude product thus obtained was purified by a silica gel column chromatography to give 600 mg (yield 22%) of the title compound.

reactant | potassium hydroxide | 480 mg | [OH-].[K+]
reactant | α-methanesulfonyloxymethyl-β-(p-methoxyphenyl)-γ-butyrolactone | 2.0 g | CS(=O)(=O)OCC1C(=O)OCC1C1=CC=C(C=C1)OC | C13H16O6S
reactant | cyclohexylmercaptan | 1.6 ml | C1(CCCCC1)S | C6H12S
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | ethyl ether | 200 ml | C(C)OCC | C4H10O
product | α-cyclohexylthiomethyl-β-(p-methoxyphenyl)-γ-butyrolactone | 600 mg, yield 22% | C1(CCCCC1)SCC1C(=O)OCC1C1=CC=C(C=C1)OC | C18H24O3S
